US04000143
Reduction of 5-ethyl-2-(o-nitrostyryl)pyridine as described in Example 2 (a) for 2-(o-nitrostyryl)pyridine provides 2-(o-aminophenethyl)-5-ethylpyridine having a melting point of 52.5° -53.5° C. (corr.) when crystallized from isopropyl ether-heptane.

reactant | 5-ethyl-2-(o-nitrostyryl)pyridine | C(C)C=1C=CC(=NC1)C=CC1=C(C=CC=C1)[N+](=O)[O-] | C15H14N2O2
reactant | 2-(o-nitrostyryl)pyridine | [N+](=O)([O-])C1=C(C=CC2=NC=CC=C2)C=CC=C1 | C13H10N2O2
product | 2-(o-aminophenethyl)-5-ethylpyridine | NC1=C(CCC2=NC=C(C=C2)CC)C=CC=C1 | C15H18N2
